US08530413B2
5-Bromo-3,3-dimethyl-2-oxo-2,3-dihydroindol-1-ylmethyl 2,2-dimethylpropionate
1.0 g of 5-bromo-3,3-dimethyl-1,3-dihydroindol-2-one was dissolved in 100 ml of dimethylformamide, and 217 mg of sodium hydride (60% dispersion in mineral oil) were added. The mixture was then stirred at room temperature for 30 minutes. Then the reaction mixture was cooled to 0° C. in an ice bath, and 941 mg of chloromethyl pivalate were added. The ice bath was removed and the reaction mixture was stirred at room temperature for 30 minutes. Then the reaction mixture was diluted by adding 250 ml of ethyl acetate, and 50 ml of water were added. The organic phase was removed and washed once with 100 ml of saturated sodium chloride solution, dried over MgSO4 and then concentrated under reduced pressure. This gave 1.5 g of 5-bromo-3,3-dimethyl-2-oxo-2,3-dihydroindol-1-ylmethyl 2,2-dimethylpropionate.

reactant | 5-bromo-3,3-dimethyl-1,3-dihydroindol-2-one | 1.0 g | BrC=1C=C2C(C(NC2=CC1)=O)(C)C | C10H10BrNO
reactant | sodium hydride | 217 mg | [H-].[Na+]
reactant | chloromethyl pivalate | 941 mg | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-Bromo-3,3-dimethyl-2-oxo-2,3-dihydroindol-1-ylmethyl 2,2-dimethylpropionate | CC(C(=O)OCN1C(C(C2=CC(=CC=C12)Br)(C)C)=O)(C)C | C16H20BrNO3
